US07105544B2
ISOPROPYL 3-{1-[3-({[1-(2-CHLORO-4-FLUOROPHENYL)CYCLOHEXYL]CARBONYL}AMINO)PROPYL]-4-PIPERIDINYL}PHENYLCARBAMATE
Example 147 was prepared from 1-(2-chloro-4-fluorophenyl)cyclohexanecarboxylic acid and isopropyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate according to the procedures described in Scheme 9: ESMS m/e: 558.1 (M+H)+.

reactant | 1-(2-chloro-4-fluorophenyl)cyclohexanecarboxylic acid | ClC1=C(C=CC(=C1)F)C1(CCCCC1)C(=O)O | C13H14ClFO2
reactant | isopropyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OC(C)C)=O | C18H29N3O2
product | ISOPROPYL 3-{1-[3-({[1-(2-CHLORO-4-FLUOROPHENYL)CYCLOHEXYL]CARBONYL}AMINO)PROPYL]-4-PIPERIDINYL}PHENYLCARBAMATE | ClC1=C(C=CC(=C1)F)C1(CCCCC1)C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OC(C)C)=O | C31H41ClFN3O3
